US06160003
(A) 1-methyl-5-(o-toluoyl)-pyrrole-2-acetonitrile
To a solution of 24 g. (0.20 mole) of 1-methylpyrrole-2-acetonitrile and 30.92 g. (0.20 mole) o-toluoyl chloride in 200 ml. methylene chloride (cooled externally to -20° C.) is added dropwise 23.4 ml. (0.20 mole) of stannic chloride. After the addition is complete, the yellow mixture is permitted to come to room temperature. The mixture is then poured into ice-dilute hydrochloric acid. The two phases are separated. The organic phase is washed consecutively with N,N-dimethyl-1,3-propanediamine, 3N hydrochloric acid, and saturated sodium chloride solution; dried over magnesium sulfate; and the product, 1-methyl-5-(o-toluoyl)-pyrrole-2-acetonitrile, is separated from the residual oil by chromatography. The column is packed with acid washed alumina in hexane. The eluant is benzene. The product is found in the first compound bearing fraction as determined by ultraviolet absorption at 260 mμ. The benzene is evaporated and the resultant solid is purified by recrystallization twice from methanol, m.p. 90-92.5° C.

reactant | 1-methylpyrrole-2-acetonitrile | 0.20 mole | CN1C(=CC=C1)CC#N | C7H8N2
reactant | o-toluoyl chloride | 0.20 mole | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-5-(o-toluoyl)-pyrrole-2-acetonitrile | CN1C(=CC=C1C(=O)C=1C(=CC=CC1)C)CC#N | C15H14N2O
